US08754100B2
Synthesis of methyl (5-isopropyl-4-methoxy-2-methylphenyl)acetate
(5-Isopropyl-4-methoxy-2-methylphenyl)acetic acid (CAS No. 81354-65-6, 5.5 g) was dissolved in methanol (50 mL), and thionyl chloride (3.5 mL) was added dropwise under ice-cooling. After dropwise addition of the reagent, the mixture was brought back to room temperature and stirred for two hours. The reaction solution was concentrated under reduced pressure. A saturated sodium bicarbonate solution and tert-butyl methyl ether were added and the organic layer was separated. The resulting organic layer was washed with brine and then dried over anhydrous sodium sulfate. The drying agent was separated by filtration, and then the organic layer was concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain the title compound (5.0 g). The property values of the compound are as follows.

reactant | (5-Isopropyl-4-methoxy-2-methylphenyl)acetic acid | C(C)(C)C=1C(=CC(=C(C1)CC(=O)O)C)OC | C13H18O3
reactant | thionyl chloride | 3.5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 50 mL | CO | CH4O
product | methyl (5-isopropyl-4-methoxy-2-methylphenyl)acetate | 5.0 g | C(C)(C)C=1C(=CC(=C(C1)CC(=O)OC)C)OC | C14H20O3
